US05126461
b) 1-Chloro-1-(thien-3-yl)-2,2,3-trimethylcyclopropane
Potassium-t-butoxide (2.0 g, 18 mmol) was added over 5 min to a rapidly stirred solution of 3-dichloromethylthiophene produced as in a) (1.00 g 6.0 mmol) in dry ether (10-20 ml) at 0° C., containing 2-methylbut-2-ene (>8 equiv.). After 1 h at 20° C., the products were worked up as in Example 3a) to give oils which contained no starting material, although traces of t-butanol were present. The product was a mixture of geometrical isomers (anti/syn=1.31) (0.7 g, 59%). Kugelrohr distillation (oven temperature 80° C. at 0.1mmHg) afforded the product as a colourless oil (0.47 g, 40%) with no change in the isomer ratio (Found M+ 200.0431. C10H13SCl requires M, 200.0426). Chromatography on silica with petroleum as eluent resulted in decomposition of the minor (syn) isomer affording pure major anti-isomer (27%) (Found M+ 200.0437. C10H13SCl requires M, 200.0426) which showed νmax (film) 752s, 773s, 838s, 1453m, 2927s, 2950s and 2996 m cm-1 ; δH (200 MHz; CDCl3) 0.85 (3H, s), 1.22 (3H, s), 1.24 (4H, m), 7.11 (2H, m), 7.24 (1H, q, J 3, 5 Hz); m/z 200 (M+), 185 (M -CH3), 165 (M+ -Cl). From the 1H n.m.r. of the mixture, the minor (syn) isomer showed δH (200 Mz; CDCl3) 0.94 (3H, s), 1.05 (3H, d, J 6.5 Hz), 1.35 (1H, q, J 6.5 Hz), 1.48 (3H, s), 7.05 (1H, dd, J 1.5, 5.0 Hz) and 7.25 (2H,m); m/z 200 (M+), 185 (M+ -CH3), 165 (M+ -Cl).

reactant | Potassium-t-butoxide | 18 mmol, 2.0 g | CC(C)([O-])C.[K+]
reactant | 3-dichloromethylthiophene | ClC(C1=CSC=C1)Cl | C5H4Cl2S
reactant | 2-methylbut-2-ene | >8 equiv. | CC(C)=CC | C5H10
reactant | t-butanol | C(C)(C)(C)O | C4H10O
solvent | ether | 10-20 ml | CCOCC | C4H10O
product | 1-Chloro-1-(thien-3-yl)-2,2,3-trimethylcyclopropane | 0.47 g, 40% | ClC1(C(C1C)(C)C)C1=CSC=C1 | C10H13ClS
